US09302996B2
To a methylene chloride (11 mL) solution of oxalyl chloride (355 μL) was added dropwise a methylene chloride (2 mL) solution of dimethylsulfoxide (450 μL) at −78° C., and the mixture was stirred for 15 minutes. To the mixture was added dropwise a methylene chloride (6 mL) solution of methyl 3-{4-[5-(hydroxymethyl)pyrazin-2-yl]-phenoxy}-2,2-dimethylpropanoate (655 mg) at −78° C., and the mixture was stirred for 10 minutes, and the mixture was stirred for 1 hour and 30 minutes. Triethylamine (2.05 mL) was added to the mixture, the temperature of the mixture was raised to 0° C., and the mixture was stirred for 30 minutes. To the reaction mixture were added a saturated aqueous ammonium chloride solution and ethyl acetate, and the organic layer was separated. The aqueous layer was extracted twice with ethyl acetate. The organic layers were combined, washed twice with water, and with saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=95:5 to 75:25) to obtain methyl 3-{4-[5-formylpyrazin-2-yl]phenoxy}-2,2-dimethylpropanoate (585 mg).

reactant | oxalyl chloride | 355 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | methyl 3-{4-[5-(hydroxymethyl)pyrazin-2-yl]-phenoxy}-2,2-dimethylpropanoate | 655 mg | OCC=1N=CC(=NC1)C1=CC=C(OCC(C(=O)OC)(C)C)C=C1 | C17H20N2O4
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Triethylamine | 2.05 mL | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 6 mL | C(Cl)Cl | CH2Cl2
solvent | dimethylsulfoxide | 450 μL | CS(=O)C | C2H6OS
solvent | methylene chloride | 2 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 11 mL | C(Cl)Cl | CH2Cl2
product | methyl 3-{4-[5-formylpyrazin-2-yl]phenoxy}-2,2-dimethylpropanoate | 585 mg | C(=O)C=1N=CC(=NC1)C1=CC=C(OCC(C(=O)OC)(C)C)C=C1 | C17H18N2O4
